US07790898B2
[3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]-p-tolyl-methanone
The compound of Example 9 was prepared according to the general preparation protocol A from 4-methylbenzoyl chloride and 3-(3-methoxy-phenyl)-piperidine-3-ol.

reactant | 4-methylbenzoyl chloride | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
reactant | 3-(3-methoxy-phenyl)-piperidine-3-ol | COC=1C=C(C=CC1)C1(CNCCC1)O | C12H17NO2
product | [3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]-p-tolyl-methanone | OC1(CN(CCC1)C(=O)C1=CC=C(C=C1)C)C1=CC(=CC=C1)OC | C20H23NO3
